US07579483B2
Synthesis of 4,5-Dichloro-thiophene-2-sulfonic acid [(E)-3-[1-(2,4-dichlorophenylmethyl)-5-fluoro-3-methyl-1H-indol-7-yl]-acryloyl]amide (DTSI).
To a solution of (E)-3-[1-(2,4-dichloro-benzyl)-5-fluoro-3-methyl-1H-indol-7-yl]-acrylic acid (10.0 g, 26.4 mmol) in dichloromethane (100 mL) was added EDCI (7.9 g, 41.2 mmol), HOBt hydrate (0.71 g, 5.3 mmol), and diisopropylethylamine (10.6 g, 81.8 mmol), and the mixture was stirred for 20 mm. To the reaction was added 4,5-dichlorothiophene-2-sulfonamide (6.43 g, 27.2 mmol), and the mixture was stirred at room temperature for 15 mm, then at reflux for 16 h. The reaction was cooled to room temperature then diluted with 25 mL water followed by 25 mL 2 M HCl. The mixture was stirred for 5 mm, then the phases were split. The organic phase was diluted with 25 mL of 2 M HCl and stirred, which induced precipitation of the product. The temperature was reduced to 0° C., and stirring was continued for 1 h. The product was collected via vacuum filtration, washed with water (3×25 mL) and heptanes (2×25 mL), then vacuum dried at 60° C. to afford 9.3 g (60% yield) of the title compound. The product could be further purified via recrystallization from ethanol: 1H-NMR (400 MHz, DMSO-d6) δ 2.26 (s, 3H), 5.53 (s, 2H), 6.12 (d, 1H, J=8.4 Hz), 6.21 (d, 1H, J=15.4 Hz), 7.04 (dd, 1H, J=10.0, 2.4 Hz), 7.22 (dd, 1H, J=8.4, 2.0 Hz), 7.37 (s, 1H), 7.38 (d, 1H, J=2.0 Hz), 7.46 (dd, 1H, J=9.2, 2.4 Hz), 7.74 (d, 1H, J=15.4 Hz), 7.90 (s, 1H).

reactant | (E)-3-[1-(2,4-dichloro-benzyl)-5-fluoro-3-methyl-1H-indol-7-yl]-acrylic acid | 26.4 mmol, 10.0 g | ClC1=C(CN2C=C(C3=CC(=CC(=C23)/C=C/C(=O)O)F)C)C=CC(=C1)Cl | C19H14Cl2FNO2
reactant | EDCI | 41.2 mmol, 7.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt hydrate | 5.3 mmol, 0.71 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | diisopropylethylamine | 81.8 mmol, 10.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-dichlorothiophene-2-sulfonamide | 27.2 mmol, 6.43 g | ClC=1C=C(SC1Cl)S(=O)(=O)N | C4H3Cl2NO2S2
reactant | HCl | 2 M, 25 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | 4,5-Dichloro-thiophene-2-sulfonic acid [(E)-3-[1-(2,4-dichlorophenylmethyl)-5-fluoro-3-methyl-1H-indol-7-yl]-acryloyl]amide | 9.3 g, 60% yield | ClC1=C(C=CC(=C1)Cl)CN1C=C(C2=CC(=CC(=C12)/C=C/C(=O)NS(=O)(=O)C=1SC(=C(C1)Cl)Cl)F)C | C23H15Cl4FN2O3S2
